US06310095B1
N-Butyl-N-(1-phenyltetrazol-5-yl)amine
5-Chloro-1-phenyl-1H-tetrazole (1.00 g, 5.54 mmol), butylamine (0.547 mL, 5.54 mmol), and diisopropylethylamine (1.48 mL, 8.31 mmol) were dissolved in DMF (5 mL), and stirred overnight at room temperature. Reaction diluted with EtOAc and washed with water and brine. Organic layer dried with Na2SO4, filtered, and concentrated in vacuo. Residue purified by flash chromatography on silica gel eluting with 35% EtOAc/Hexanes to afford the desired product as a white solid (625 mg, 52%). m/e (DCI) 218 (MH+)

reactant | 5-Chloro-1-phenyl-1H-tetrazole | 5.54 mmol, 1.00 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
reactant | butylamine | 5.54 mmol, 0.547 mL | C(CCC)N | C4H11N
reactant | diisopropylethylamine | 8.31 mmol, 1.48 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Butyl-N-(1-phenyltetrazol-5-yl)amine | 625 mg, 52% | C(CCC)NC1=NN=NN1C1=CC=CC=C1 | C11H15N5
